US07060697B2
To a solution of [4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-phenyl]-methanol (162 mg, 0.4327 mmol, 1 eq.) in anhydrous DCM (5 mL) is added PPh3 (148 mg, 0.5625 mmol, 1.3 eq). The mixture is stirred at room temperature for 5 min. at which point the reaction is cooled to 0° C. To the reaction mixture at 0° C. is added a solution of CBr4 (187 mg, 0.5625 mmol, 1.3 eq.) in anhydrous DCM (2 mL). The reaction is allowed to slowly warm to room temperature and is stirred for 12 h. The reaction mixture is applied directly to silica gel chromatography (6:1 hexanes/EtOAc) to give 4-(4-bromomethyl-benzylsulfanyl)-2-trifluoromethyl-biphenyl.

reactant | [4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-phenyl]-methanol | 0.4327 mmol, 162 mg, 1 eq. | FC(C1=C(C=CC(=C1)SCC1=CC=C(C=C1)CO)C1=CC=CC=C1)(F)F | C21H17F3OS
reactant | PPh3 | 0.5625 mmol, 148 mg, 1.3 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 0.5625 mmol, 187 mg, 1.3 eq. | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-bromomethyl-benzylsulfanyl)-2-trifluoromethyl-biphenyl | BrCC1=CC=C(CSC2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C=C1 | C21H16BrF3S
